US07846929B2
To a suspension of 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde (500 mg) in methanol (20 mL) at 0° C. was added sodium borohydride (66 mg). The reaction was stirred for 2 h then quenched with 1:1 saturated aqueous sodium hydrogencarbonate solution—water (20 mL). The mixture was stirred for 10 min and then filtered, washed with water and air dried to give (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-methanol as a white solid (489 mg).

reactant | 2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine-6-carbaldehyde | 500 mg | ClC=1N=C(C2=C(N1)C=C(S2)C=O)N2CCOCC2 | C11H10ClN3O2S
reactant | sodium borohydride | 66 mg | [BH4-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
product | (2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-yl)-methanol | 489 mg | ClC=1N=C(C2=C(N1)C=C(S2)CO)N2CCOCC2 | C11H12ClN3O2S
